US07713979B2
1-Phenyl-cyclohexylamine
Dissolve (1-phenyl-cyclohexyl)-carbamic acid benzyl ester (Preparation 27) (2.87 g, 9.26 mmol) in MeOH (100 mL). Exchange air with nitrogen for three times and then add Pd—C (0.5 g, 10%). Exchange the nitrogen with H2 for three times. Stir the reaction mixture under H2 for over night then remove the Pd—C by filtration. Remove the solvent under reduced pressure to give 1.468 g (90%) of the crude title compound as a colorless oil.

reactant | (1-phenyl-cyclohexyl)-carbamic acid benzyl ester | 9.26 mmol, 2.87 g | C(C1=CC=CC=C1)OC(NC1(CCCCC1)C1=CC=CC=C1)=O | C20H23NO2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 1-Phenyl-cyclohexylamine | 1.468 g, 90% | C1(=CC=CC=C1)C1(CCCCC1)N | C12H17N
